US05389633
Production of 6-[3-(1-methyl-4-piperazinylsulfonyl)-1-propoxy][1,2,4]triazolo[1,5-b]pyridazine
In 10 ml of dimethylformamide was suspended 0.21 g of 60% sodium hydride in oil followed by addition of 1.12 g of 3-(1-methyl-4-piperazinylsulfonyl)-1-propanol and the mixture was stirred under reduced pressure at room temperature for 75 minutes. Then, 0.773 g of 6-chloro[1,2,4]triazolo[1,5-b]pyridazine was added and the mixture was further stirred at room temperature for 1.5 hours. Following addition of 40 ml of ice water, the reaction mixture was saturated with sodium chloride. The aqueous layer was extrated with tetrahydrofuran and the extrat was dried over magnesium sulfate. The solvent was then distilled off under reduced pressure and the residue was subjected to silica gel column chromatography, elution being carried out with dichloromethane-methanol (10:1). The fractions containing the desired product were pooled and concentrated to provide 1.032 g of the title compound. m.p. 140°-141° C.

reactant | sodium hydride | 0.21 g | [H-].[Na+]
reactant | 3-(1-methyl-4-piperazinylsulfonyl)-1-propanol | 1.12 g | CN1CCN(CC1)S(=O)(=O)CCCO | C8H18N2O3S
reactant | 6-chloro[1,2,4]triazolo[1,5-b]pyridazine | 0.773 g | ClC=1C=CC=2N(N1)N=CN2 | C5H3ClN4
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-[3-(1-methyl-4-piperazinylsulfonyl)-1-propoxy][1,2,4]triazolo[1,5-b]pyridazine | 1.032 g | CN1CCN(CC1)S(=O)(=O)CCCOC=1C=CC=2N(N1)N=CN2 | C13H20N6O3S
